US06255305B1
a) 5-Formyl-1-[2-(trimethylsilanyl)ethoxy]methyl-1 H-1,2,3-triazole
To a stirred solution of 1-[2-(trimethylsilanyl)ethoxy]methyl-1 H-1,2,3-triazole (Holzer, W.; Ruso, K, J. Heterocycl. Chem., 1992, 29, 1203-7) (2.0344 g, 10.2 mmol) in anhydrous THF (30 ml), cooled to <−75° C. under nitrogen, was added dropwise, over 11 min, a 1.6 M solution of butyllithium in hexanes (6.70 ml, 10.7 mmol). The mixture was stirred at this temperature for 30 min, then allowed to warm to −20° C. over 13 min. The mixture was then recooled to <−75° C., and anhydrous DMF (0.87 ml, 11.3 mmol) was added dropwise over 8 min. The mixture was stirred at <−75° C. for 1.75 h, then at 0° C. for 75 min. Saturated aqueous NH4CI (50 ml) was then added and the mixture was extracted with diethyl ether (75 ml) then ethyl acetate (2×75 ml). The organic extracts were dried (Na2SO4) and evaporated int vacuo. The residue was purified by flash chromatography (silica gel, 40% EtOAc/hexane) to give 1.7256 g (74%) of the title compound as a colourless oil: 1H NMR (360 MHz, CDCl3) δ−0.03 (9 H, s), 0.91 (2 H, m), 3.63 (2 H, m), 6.01 (2 , s), 8.28 (1 H, s), 10.08 (1 H, s); MS (ES+) m/e 170 [M—SiMe2+H]+.

reactant | 1-[2-(trimethylsilanyl)ethoxy]methyl-1 H-1,2,3-triazole | 10.2 mmol, 2.0344 g | C[Si](CCOCN1N=NC=C1)(C)C | C8H17N3OSi
reactant | butyllithium | C(CCC)[Li]
reactant | DMF | 11.3 mmol, 0.87 ml | CN(C)C=O | C3H7NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-Formyl-1-[2-(trimethylsilanyl)ethoxy]methyl-1 H-1,2,3-triazole | 1.7256 g, 74% | C(=O)C1=CN=NN1COCC[Si](C)(C)C | C9H17N3O2Si
